US06174881B1
Gaseous ammonia was conducted into a solution of 14.4 g of dimorpholin-4-yl-phosphinic acid (5-phenyl-3H-thieno[3,2-e][1,4]-diazepin-2-yl) ester at room temperature while stirring until the starting product had reacted completely. After removal of the solvent in a vacuum the residue was extracted with dichloromethane/water in the presence of a small amount of methanol. The aqueous phase was washed several times with dichloromethane, the dichloromethane extracts were dried with sodium sulphate, filtered and evaporated in a vacuum. The residue was suspended in dichloromethane and stirred for 0.5 h. There were obtained 2.9 g of crude 5-phenyl-3H-thieno[3,2-e][1,4]diazepin-2-ylamine which was used without further purification as the starting product for the step described below.

reactant | ammonia | N | H3N
reactant | dimorpholin-4-yl-phosphinic acid (5-phenyl-3H-thieno[3,2-e][1,4]-diazepin-2-yl) ester | 14.4 g | C1(=CC=CC=C1)C=1C2=C(N=C(CN1)OP(=O)(N1CCOCC1)N1CCOCC1)C=CS2 | C21H25N4O4PS
product | 5-phenyl-3H-thieno[3,2-e][1,4]diazepin-2-ylamine | 2.9 g | C1(=CC=CC=C1)C=1C2=C(N=C(CN1)N)C=CS2 | C13H11N3S
